US08802864B2
5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-4-(3,3′-difluoro-4′-methyl-4-biphenylyl)-2,4-dihydro-3H-1,2,4-triazol-3-one
A mixture of 4-(4-bromo-2-fluorophenyl)-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one (0.244 mmol), (3-fluoro-4-methylphenyl)boronic acid (0.370 mmol), and dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II)-dichloromethane adduct (0.012 mmol) in dioxane (2.0 mL) and 2M aq potassium carbonate (0.5 mL) was irradiated in the microwave at 150° C. for 15 min. The reaction mixture was poured into water (50 mL) and the pH was adjusted to 5 with addition of 1N aq HCl. The aqueous layer was extracted with ethyl acetate (3×50 mL) and the combined organic layers were dried over sodium sulfate, filtered, and concentrated in vacuo. Purification of the residue by flash chromatography (100% ethyl acetate) and then reverse phase HPLC (30-65% acetonitrile/water with 0.1% NH4OH) provided the title compound as a tan solid (58%). MS(ES)+ m/e 439.2 [M+H]+.

reactant | 4-(4-bromo-2-fluorophenyl)-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one | 0.244 mmol | BrC1=CC(=C(C=C1)N1C(NN=C1C[C@H]1CN(CC1)C(=O)C1CC1)=O)F | C17H18BrFN4O2
reactant | (3-fluoro-4-methylphenyl)boronic acid | 0.370 mmol | FC=1C=C(C=CC1C)B(O)O | C7H8BFO2
reactant | water | 50 mL | O | H2O
reactant | HCl | 1N | Cl | ClH
solvent | dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
solvent | potassium carbonate | 2M, 0.5 mL | C([O-])([O-])=O.[K+].[K+]
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane | 0.012 mmol | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
product | 5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-4-(3,3′-difluoro-4′-methyl-4-biphenylyl)-2,4-dihydro-3H-1,2,4-triazol-3-one | 58% | C1(CC1)C(=O)N1C[C@@H](CC1)CC=1N(C(NN1)=O)C1=C(C=C(C=C1)C1=CC(=C(C=C1)C)F)F | C24H24F2N4O2
